US09120749B2
{6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[cis-4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure F, {6-bromo-4-[cis-4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (31 mg, 0.070 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (43 mg, 0.150 mmol) to afford the desired product (14.1 mg, 39%) as a yellow-brown solid: 1H NMR (500 MHz, CD3OD) δ 9.25 (s, 1H), 8.36 (d, J=1.8 Hz, 1H), 8.03 (dd, J=8.7, 1.9 Hz, 1H), 7.93 (d, J=8.7 Hz, 1H), 7.26 (d, J=2.1 Hz, 1H), 7.20 (d, J=2.1 Hz, 1H), 4.77 (s, J=12.7 Hz, 1H), 3.98 (s, 3H), 3.50-3.41 (m, 1H), 3.23 (q, J=7.2 Hz, 4H), 2.97-2.88 (m, 1H), 2.22 (d, J=12.9 Hz, 2H), 2.09-1.85 (m, 6H), 1.35 (t, J=7.3 Hz, 6H), 1.24-1.17 (m, 2H), 1.18-1.09 (m, 2H); ESI MS m/z 522 [C30H36ClN3O3+H]+; HPLC 98.3% (AUC), tR=11.07 min.

reactant | {6-bromo-4-[cis-4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.070 mmol, 31 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@@H](CC1)N(CC)CC | C23H30BrN3O
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.150 mmol, 43 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | {6-(3-Chloro-4-hydroxy-5-methoxyphenyl)-4-[cis-4-(diethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 14.1 mg, 39% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@@H](CC1)N(CC)CC | C30H36ClN3O3
